US06660744B1
A mixture of trifluoroacetic acid/dichloromethane (20:80, 150 mL) was added to a solution of N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)carbamate(4.75 g, 8.85 mmol) in dichloromethane (100 mL) at 0° C. 2 hours later, the ice-bath was removed and the solvents were evaporated and the residue was dissolved in dichloromethane. Sodium hydroxide (1.0N) was added to adjust the pH to about 10. The solid formed upon removal of organic solvent was collect by filtration to give trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (3.85 g, 100%). 1H NMR (DMSO-d6) δ 1.44 (m, 2H), 1.96 (m, 6H), 2.21 (s, 3H), 2.33 (m, 5H), 2.53 (m, 4H), 3.83 (s, 3H), 4.60 (m, 1H), 5.03 (bs, 2H), 6.76 (d, J=7.91 Hz, 1H), 6.98 (d, J=7.89 Hz, 1H), 7.03 (m, 2H), 8.19 (s, 1H).

reactant | trifluoroacetic acid dichloromethane | 150 mL | FC(C(=O)O)(F)F.ClCCl
reactant | N-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-2-methoxyphenyl)carbamate | 8.85 mmol, 4.75 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC([O-])=O)OC)C2CCC(CC2)N2CCN(CC2)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trans-3-(4-amino-3-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 3.85 g, 100% | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)OC | C23H32N8O
